US07288654B2
To a solution of methyl 4-[(5-bromo-3-formylpyridin-2-yl)(isobutyl)amino]butanoate (750 mg) in dimethyl carbonate (20 ml) was added a 28% sodium methoxide solution in methanol (810 mg), and the mixture was heated at 50° C. for 2 hours under a nitrogen atmosphere. The mixture was returned to room temperature, water was added thereto and then extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1→hexane:ethyl acetate=6:1) to give methyl 3-bromo-9-isobutyl-8,9-dihydro-7H-pyrido[2,3-b]azepine-6-carboxylate (654 mg) as a yellow oily material.

reactant | methyl 4-[(5-bromo-3-formylpyridin-2-yl)(isobutyl)amino]butanoate | 750 mg | BrC=1C=C(C(=NC1)N(CCCC(=O)OC)CC(C)C)C=O | C15H21BrN2O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | water | O | H2O
solvent | dimethyl carbonate | 20 ml | C(OC)(OC)=O | C3H6O3
solvent | methanol | 810 mg | CO | CH4O
product | methyl 3-bromo-9-isobutyl-8,9-dihydro-7H-pyrido[2,3-b]azepine-6-carboxylate | 654 mg | BrC1=CC2=C(N(CCC(=C2)C(=O)OC)CC(C)C)N=C1 | C15H19BrN2O2
